US08629137B2
Step 3: 6-methoxy-3-piperidin-4-yl-1H-quinolin-2-one
A mixture of 160 mg (0.462 mmol) 3-(1-benzyl-1.2.3.6-tetrahydro-pyridin-4-yl)-6-methoxy-quinolin-2-ol and 20 mg palladium on charcoal (Pd/C 10%) in 30 mL MeOH was first of all hydrogenated for 17.5 h at 50° C. in a hydrogen atmosphere of 50 psi. Then 10 mL THF and 20 mg palladium on charcoal (Pd/C 10%) were added and hydrogenation continued for a further 2 h under the same conditions. Another 20 mg palladium on charcoal (Pd/C 10%) were added and the mixture was hydrogenated overnight at 50° C. in a hydrogen atmosphere of 60 psi. Then the reaction mixture was filtered, washed with DMF and the filtrate was evaporated down. The residue was added to EtOAc, triturated with PE and filtered. The precipitate was washed with DIPE and dried.

reactant | 3-(1-benzyl-1.2.3.6-tetrahydro-pyridin-4-yl)-6-methoxy-quinolin-2-ol | 0.462 mmol, 160 mg | C(C1=CC=CC=C1)N1CCC(=CC1)C=1C(=NC2=CC=C(C=C2C1)OC)O | C22H22N2O2
reactant | hydrogen | [H][H] | H2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | 6-methoxy-3-piperidin-4-yl-1H-quinolin-2-one | COC=1C=C2C=C(C(NC2=CC1)=O)C1CCNCC1 | C15H18N2O2
